US09126970B2
7-(4,6-Diphenylpyrimidin-2-yl)-10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
40 g (67.4 mmol) of 7-bromo-10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene, 17.1 g (67.4 mmol) of bis(pinacolato)diborane and 19.8 g of potassium acetate are suspended in 700 ml of dioxane. 2.8 g (3.4 mmol) of 1,1-bis(diphenylphosphino)ferrocenepalladium(II) dichloride complex with DCM are added to this suspension. The reaction mixture is heated under reflux for 16 h. After cooling, the organic phase is separated off, washed three times with 200 ml of water and subsequently evaporated to dryness. The residue is recrystallised from toluene. 30 g (46.8 mmol) of 10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-10,12-dihydro-10-azaindeno[2,1-b]fluorene, 11.2 g (42.15 mmol) of 2-chloro-4,6-diphenylpyrimidine and 9.9 g of sodium carbonate are suspended in 300 ml of dioxane, 300 ml of toluene and 100 ml of water. 2.7 g (2.3 mmol) of Pd(PPh3)4 are added to this suspension. The reaction mixture is heated under reflux for 5 h. After cooling, the precipitated solid is filtered off with suction, washed with water and ethanol and dried. The residue is extracted with hot toluene, recrystallised from toluene and finally sublimed in a high vacuum, the purity is 99.9%. Yield: 18 g, 59% of theory.

reactant | 7-bromo-10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | 67.4 mmol, 40 g | BrC=1C=C2C=3C=C4C(=CC3N(C2=CC1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1)C(C1=CC=CC=C14)(C)C | C36H25BrN4
reactant | bis(pinacolato)diborane | 67.4 mmol, 17.1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 19.8 g | C(C)(=O)[O-].[K+]
reactant | 10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-10,12-dihydro-10-azaindeno[2,1-b]fluorene | 46.8 mmol, 30 g | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C)B1OC(C(O1)(C)C)(C)C | C42H37BN4O2
reactant | 2-chloro-4,6-diphenylpyrimidine | 42.15 mmol, 11.2 g | ClC1=NC(=CC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
reactant | sodium carbonate | 9.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 700 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 2.3 mmol, 2.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 ml | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 7-(4,6-Diphenylpyrimidin-2-yl)-10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | C1(=CC=CC=C1)C1=NC(=NC(=C1)C1=CC=CC=C1)C=1C=C2C=3C=C4C(=CC3N(C2=CC1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1)C(C1=CC=CC=C14)(C)C | C52H36N6
